US05128356
2-Butyl-5-chloro-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]benzimidazole-7-carboxylic acid
A solution of methyl 2-butyl-5-chloro-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazol-7carboxylate (0.28 g) in 1N NaOH (2 ml) and methanol (4 ml) was stirred for 16 hours at room temperature. The reaction mixture was concentrated, and the concentrate was dissolved in water (10 ml), which was made acidic with 1N-HCl. Crystals thus separated were collected by filtration, recrystallized from methanol-chloroform to afford colorless crystals (0.2 g, 72%), m.p. 232°-234° C.

reactant | methyl 2-butyl-5-chloro-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazol-7carboxylate | 0.28 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC(=C2)Cl)C(=O)OC | C27H25ClN6O2
solvent | NaOH | 1N, 2 ml | [OH-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
product | 2-Butyl-5-chloro-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]benzimidazole-7-carboxylic acid | 0.2 g, 72% | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC(=C2)Cl)C(=O)O | C26H23ClN6O2
